### PR TITLE
Split op-codes by dialects

### PR DESCRIPTION
**Pull request by tobiasgrosser**
This partitions the op-codes per dialect in preparation of factoring some of our verifiers and interpreter implementations by dialect.

### CODE REVIEW

File: Veir/Meta/OpCode.lean [hunk 1]
```diff
@@ -38,26 +52,126 @@ meta def opCodeArray (ds : Array Dialect) : Array Name := Id.run do
...
+
+meta def mkDialectCodeToName (ds : Array Dialect) : TermElabM Syntax := do
+  let mut alts := #[]
+  for d in ds do
+    alts := alts.push <| ←
+      `(Lean.Parser.Term.matchAltExpr |
+         | $(mkIdent (d.mkDialectCode)) => $(Syntax.mkStrLit d.getName))
+  `(def $(mkIdent `DialectCode.toName) (code : $(mkIdent `DialectCode)) :
+      String := match code with $alts:matchAlt* )
+
```
Comment (math-fehr) [inline Veir/Meta/OpCode.lean]: Can you add the documentation comments to these functions as well? (Like the comment after)

File: Veir/Meta/OpCode.lean [hunk 2]
```diff
@@ -23,13 +23,25 @@ meta def mkDialect (n : String) (info : InductiveVal) : Dialect := Id.run do
 meta def mkCtor (n : Name) : TermElabM (TSyntax `Lean.Parser.Command.ctor) :=
   `(Lean.Parser.Command.ctor | | $(mkIdent n):ident)
 
+meta def mkCtorWithType (n : Name × Name) : TermElabM (TSyntax `Lean.Parser.Command.ctor) :=
```
Comment (math-fehr) [inline Veir/Meta/OpCode.lean:26]: Would it make sense to have two "sections" in this file, one for operations and one for dialects?
Just to make reading the file a bit more easier.

File: Veir/Meta/OpCode.lean [hunk 3]
```diff
@@ -23,13 +23,25 @@ meta def mkDialect (n : String) (info : InductiveVal) : Dialect := Id.run do
...
+    `(Lean.Parser.Command.ctor | | $(mkIdent n.1):ident (op : $(mkIdent n.2)))
+
+meta def Dialect.getName (d : Dialect) : String :=
```
Comment (math-fehr) [inline Veir/Meta/OpCode.lean]: Should you put these functions in a `Dialect` namespace?

File: Veir/Meta/OpCode.lean [hunk 4]
```diff
@@ -38,26 +50,126 @@ meta def opCodeArray (ds : Array Dialect) : Array Name := Id.run do
...
+| arith (op : Arith)
+| builtin (op : Builtin)
+| func (op : Func)
+| llvm (op : Llvm)
+| riscv (op : Riscv)
+| test (op : Test)
+deriving Inhabited, Repr, Hashable, DecidableEq
+
+-/
+meta def mkOpCode3Inductive (ds : Array Dialect) : TermElabM Syntax := do
```
Comment (math-fehr) [inline Veir/Meta/OpCode.lean]: Why is this named `OpCode3`?

File: Veir/Parser/MlirParser.lean [hunk 5]
```diff
@@ -340,7 +340,7 @@ partial def parseOptionalOp (ip : Option InsertPoint) : MlirParserM (Option Oper
   let blockOperands ← parseBlockOperands
 
   /- Get the operation opcode. -/
-  let opId := OpCode.fromName opName.toByteArray
+  let some opId := OpCode.fromName opName.toByteArray | return none
```
Comment (math-fehr) [inline Veir/Parser/MlirParser.lean]: Can we still parse unregistered operations?

File: Veir/OpCode.lean [hunk 6]
```diff
@@ -180,32 +186,65 @@ inductive Riscv where
...
 inductive Test where
 | test
+deriving Inhabited, Repr, Hashable, DecidableEq
 
-public section
 
+/-
+A type class that defines an MLIR dialect and translates from `DialectCode` to
+the dialect type.
+-/
```
Comment (math-fehr) [inline Veir/OpCode.lean:215]: This should be moved down and made a documentation comment?

File: Veir/OpCode.lean [hunk 7]
```diff
@@ -180,32 +186,65 @@ inductive Riscv where
...
+  | .func => Func
+  | .llvm => Llvm
+  | .riscv => Riscv
+  | .test => Test
+  | .mod_arith => Mod_Arith
+  | .datapath => Datapath
+
+/-
+Adapt `toType` to have a return value that is Hashable.
+-/
```
Comment (math-fehr) [inline Veir/OpCode.lean]: Is this a TODO comment? Can we make this a GitHub issue instead?

File: Veir/OpCode.lean [hunk 8]
```diff
@@ -180,32 +186,65 @@ inductive Riscv where
...
+
+theorem DialectCode.fromByteArray_toByteArray (d : DialectCode) :
+    DialectCode.fromByteArray (DialectCode.toByteArray d) = d := by
+  simp [DialectCode.toByteArray, DialectCode.fromByteArray]
+  cases d <;> simp[String.toByteArray_inj]
+
+theorem DialectCode.fromName_toByteArray (d : DialectCode) :
+    DialectCode.fromName (DialectCode.toName d) = d := by
+  simp [DialectCode.toName, DialectCode.fromName]
+  cases d <;> simp
```
Comment (math-fehr) [inline Veir/OpCode.lean]: nice

**Review by math-fehr — COMMENTED** [review]
I added mostly style comments, otherwise Leo will know if the meta code makes sense or not.
Otherwise, this is good to me

File: Veir/Meta/OpCode.lean (hunk 3 above)
Comment (tobiasgrosser) [reply Veir/Meta/OpCode.lean]: Done.

File: Veir/Meta/OpCode.lean [hunk 9]
```diff
@@ -38,26 +50,108 @@ meta def opCodeArray (ds : Array Dialect) : Array Name := Id.run do
...
+  for d in ds do
+    ctors := ctors.push (d.mkDialectCode, d.mkDialectCodeSimple)
+
+  let ctors2 ← (ctors).mapM mkCtorWithType
+  `(inductive $(mkIdent `OpCode) where $ctors2*
+    deriving Inhabited, Repr, Hashable, DecidableEq)
+
 meta def emitFromName (ds : Array Dialect) : TermElabM Command := do
-  let mut res : TSyntax `term := mkIdent `OpCode.builtin_unregistered
+  let mut res : TSyntax `term ← `(Option.none)
```
Comment (tobiasgrosser) [inline Veir/Meta/OpCode.lean]: This should build a `.builtin .unregistered`

**Review by math-fehr — APPROVED** [review]
